US04935414
4-(3-(1-Diphenylmethylazetidin-3-oxy)-2-hydroxypropoxy)-1H-indole-2-carboxamide
8.8 g of 4-hydroxy-1H-indole-2-carboxamide are dissolved in 250 ml of 0.8 percent strength sodium hydroxide solution and a solution of 16.3 g of 1-(diphenylmethyl)-3-(2,3-epoxypropoxy)azetidine in 250 ml of dioxane is added. The mixture is allowed to stand for 4 hours at room temperature and then warmed to 60° C. for a further 20 hours. The reaction mixture is then stirred into 1 l of ice water and extracted twice with 500 ml of methylene chloride each time. The organic phase is dried using potassium carbonate and the solvent is removed by distillation in vacuo. The residue is triturated twice with 100 ml of diisopropyl ether each time and filtered off with suction.

reactant | 4-hydroxy-1H-indole-2-carboxamide | 8.8 g | OC1=C2C=C(NC2=CC=C1)C(=O)N | C9H8N2O2
reactant | 1-(diphenylmethyl)-3-(2,3-epoxypropoxy)azetidine | 16.3 g | C1(=CC=CC=C1)C(N1CC(C1)OCC1CO1)C1=CC=CC=C1 | C19H21NO2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 4-(3-(1-Diphenylmethylazetidin-3-oxy)-2-hydroxypropoxy)-1H-indole-2-carboxamide | C1(=CC=CC=C1)C(N1CC(C1)OCC(COC1=C2C=C(NC2=CC=C1)C(=O)N)O)C1=CC=CC=C1 | C28H29N3O4
